US09169254B2
4-[2-(4-Amino-4-cyano-piperidine-1-sulfonyl)-ethyl]-3-methyl-benzoic acid tert-butyl ester (500.0 mg, 1.23 mmol), 3-benzyloxy-5-trifluoromethyl-benzoic acid (436.1 mg, 1.47 mmol) and DIPEA (0.321 ml, 1.85 mmol) were dissolved in DMF (5.50 ml). HATU (561.2 mg, 1.47 mmol) was added and the mixture was stirred at room temperature for one hour. The reaction solution was diluted with diethyl ether, and the organic layer was washed with a 1 M aqueous hydrochloric acid solution, an aqueous sodium bicarbonate solution and saline. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by column chromatography (hexane-ethyl acetate) to give 4-{2-[4-(3-benzyloxy-5-trifluoromethyl-benzoylamino)-4-cyano-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester as a yellow amorphous (796.2 mg, 94.4% in two steps).

reactant | 4-[2-(4-Amino-4-cyano-piperidine-1-sulfonyl)-ethyl]-3-methyl-benzoic acid tert-butyl ester | 1.23 mmol, 500.0 mg | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C#N)N)C)=O | C20H29N3O4S
reactant | 3-benzyloxy-5-trifluoromethyl-benzoic acid | 1.47 mmol, 436.1 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C15H11F3O3
reactant | DIPEA | 1.85 mmol, 0.321 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.47 mmol, 561.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5.50 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-{2-[4-(3-benzyloxy-5-trifluoromethyl-benzoylamino)-4-cyano-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C#N)NC(C1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O)C)=O | C35H38F3N3O6S
